US08076345B2
Various N-substituted 2-(4-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitriles are prepared using a general procedure shown above (Scheme 2). 6-Benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(3H)-one is treated with POCl3 to give 6-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine which is treated with sodium methoxide to give 6-benzyl-4-methoxy-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine. Debenzylation and reacting the product with an appropriate 2-halo-benzonitrile under SNAR or Buchwald coupling reaction conditions give the 2-(4-methoxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile which is reacted with POCl3 or POBr3. Displacement of the resultant 4-chloro or 4-bromo group using appropriately substituted amines via SNAR displacement affords various N-substituted 2-(4-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitriles.

reactant | 6-Benzyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4(3H)-one | C(C1=CC=CC=C1)N1CC2=C(N=CNC2=O)CC1 | C14H15N3O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H14ClN3
